US08835494B2
1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid (2.00 g, 6.15 mmol), dicyclohexylcarbodiimide (DCC, 2.54 g, 12.30 mmol), 4-dimethyl-aminopyridine (DMAP, 0.075 g, 0.614 mmol), and oxiran-2-ylmethanol (0.490 ml, 7.38 mmol) were dissolved in dry DCM (40 mL). The reaction mixture was stirred at room temperature (r.t.) overnight, then it was filtered and the filtrate was evaporated to dryness to afford 4.4 g of crude. The crude was purified by gradient flash chromatography eluting with petroleum ether/EtOAc (from 97/3 to 90/10 v/v) to afford 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid oxiranylmethyl ester (1.0 g, 42.6% yield).

reactant | 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid | 6.15 mmol, 2.00 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C16H11Cl2FO2
reactant | dicyclohexylcarbodiimide | 12.30 mmol, 2.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | oxiran-2-ylmethanol | 7.38 mmol, 0.490 ml | O1C(C1)CO | C3H6O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid oxiranylmethyl ester | 1.0 g, 42.6% yield | O1C(C1)COC(=O)C1(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)F | C19H15Cl2FO3
